US03984415
To a solution of 5.7 g of 2-(m-nitroanilino)nicotinic acid ethyl ester and 50 ml of dry tetrahydrofuran was added 1.1 g of sodium amide and the solution was stirred for one hour. To this was added dropwise under cooling 2.9 g of ethyl isocyanate and this mixture was reacted at 60°C for 10 hours. After the reaction was complete, the solvent was distilled off from the mixture, and to the residue obtained was added water to precipitate a crude product. This product was collected by filtration and recrystallized from methanol to give 3.4 g of 1-(m-nitrophenyl)-3-ethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione as colorless needles, melting at 210°-211°C.

reactant | 2-(m-nitroanilino)nicotinic acid ethyl ester | 5.7 g | C(C)OC(C1=C(N=CC=C1)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H13N3O4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | sodium amide | 1.1 g | [NH2-].[Na+]
reactant | ethyl isocyanate | 2.9 g | C(C)N=C=O | C3H5NO
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-ethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 3.4 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC)=O | C15H12N4O4
